US04656291
2,6-dichlorophenylsulfonic acid (1.0 g, 0.0037 m) was added to ethylenediamine (0.5 g, 0.008 m) in the absence of solvent. The reaction exothermed to 35° C. and was diluted with acetonitrile and heated at 65° C. for 7.25 hr. The reaction was concentrated, treated with sodium hydroxide and extracted with methylene chloride. The organic phase was dried and concentrated to yield 0.5 g of clonidine. The product was identified by spectroscopic methods.

reactant | 2,6-dichlorophenylsulfonic acid | 1.0 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)O | C6H4Cl2O3S
reactant | ethylenediamine | 0.5 g | C(CN)N | C2H8N2
reactant | acetonitrile | C(C)#N | C2H3N
product | clonidine | 0.5 g | C1=CC(=C(C(=C1)Cl)NC2=NCCN2)Cl | C9H9Cl2N3
